US06846819B1
c) (E)-3-(6-Amino4-methylpyridin-3-yl)acrylic acid HCl salt
To ethyl (E)-3-(6-amino-4-methylpyridin-3-yl)acrylate (1.50 g, 7.3 mmole) was added HOAc (15 mL) and conc. HCl (15 mL). The solution was stirred at 100° C. for 10 hr, cooled to RT, and concentrated to dryness. Trituration with Et2O, filtration and drying under vacuum gave the title compound (1.65 g, quantitative) as a white solid: LCMS (ES) m/e 179.2 (M+H)+; 1H NMR (400 MHz, DMSO-d6) δ 8.37 (s,1H), 8.28 (br s, 3H), 7.51 (d, I=16.0 Hz,1H), 6.86 (s,1H), 6.46 (d, J=16.0 Hz,1H), 2.41 (s, 3H).

reactant | ethyl (E)-3-(6-amino-4-methylpyridin-3-yl)acrylate | 7.3 mmole, 1.50 g | NC1=CC(=C(C=N1)/C=C/C(=O)OCC)C | C11H14N2O2
reactant | HCl | 15 mL | Cl | ClH
solvent | HOAc | 15 mL | CC(=O)O | C2H4O2
product | (E)-3-(6-Amino4-methylpyridin-3-yl)acrylic acid HCl salt | 1.65 g | Cl.NC1=CC(=C(C=N1)/C=C/C(=O)O)C | InChI=1S/C9H10N2O2.ClH/c1-6-4-8(10)11-5-7(6)2-3-9(12)13;/h2-5H,1H3,(H2,10,11)(H,12,13);1H/b3-2+;
